************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: OAI32XL
* View Name:     schematic
* Netlisted on:  Jun  4 07:48:01 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD:P
+        VSS:G
+        ExtVDD:P
+        ExtVSS:G

*.PIN VDD
*+    VSS
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    OAI32XL
* View Name:    schematic
************************************************************************

.SUBCKT OAI32XL A0 A1 A2 B0 B1 VDD VSS Y
*.PININFO A0:I A1:I A2:I B0:I B1:I VDD:I VSS:I Y:O
Mmn3 Y B0 n0 VSS g45n1svt m=1 l=45n w=145n
Mmn4 Y B1 n0 VSS g45n1svt m=1 l=45n w=145n
Mmn2 n0 A2 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn0 n0 A0 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn1 n0 A1 VSS VSS g45n1svt m=1 l=45n w=145n
Mmp2 Y A2 n2 VDD g45p1svt m=1 l=45n w=215n
Mmp3 n4 B0 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp0 n1 A0 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp4 Y B1 n4 VDD g45p1svt m=1 l=45n w=215n
Mmp1 n2 A1 n1 VDD g45p1svt m=1 l=45n w=215n
.ENDS

